US06867198B2
3-(4,4-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (indol-3-yl)acetamide and (4,4-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxo-acetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | (indol-3-yl)acetamide | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | (4,4-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxo-acetic acid methyl ester | COC(C(=O)C1=CN2C(CCC3=CC=CC1=C23)(C)C)=O | C16H17NO3
product | 3-(4,4-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | CC1(N2C3=C(C=CC=C3CC1)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O)C | C25H21N3O2
